US04312368
Pyrolysis Of Amyl 3-Hydroxy-3-methyl-3-(4-pyridyl)propionate
A 100 milligram quantity of the hydroxy ester described in Example III is pyrolyzed in a sealed tube at 400° C. for 3 minutes. Analysis of the pyrolysis mixture by gas chromatography indicates the presence of about 30% of a mixture in a 1:1 ratio of amyl acetate and 4-acetylpyridine. The remainder of the mixture contains unreacted starting material.

reactant | amyl acetate | C(C)(=O)OCCCCC | C7H14O2
reactant | 4-acetylpyridine | C(C)(=O)C1=CC=NC=C1 | C7H7NO
product | Amyl 3-Hydroxy-3-methyl-3-(4-pyridyl)propionate | OC(CC(=O)OCCCCC)(C1=CC=NC=C1)C | C14H21NO3
